* C:\Users\jas24\OneDrive\Ye Group\DACs\Schematic\Schematic.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 2/22/2017 6:58:07 PM

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
C77  GNDA +15V 0.1uF		
C70  GNDA -15V 0.1uF		
U21  Net-_U18-Pad4_ Net-_U18-Pad3_ +10Vref -15V -10Vref Net-_U18-Pad17_ Net-_U18-Pad16_ +15V AD8676		
U19  Net-_U19-Pad1_ Net-_U19-Pad2_ Net-_U18-Pad3_ Net-_U18-Pad4_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U18-Pad16_ Net-_U18-Pad17_ -15V GNDA Vout8 AD5781		
C74  GNDA -15V 0.1uF		
C73  GNDA -15V 10uF		
C62  +3V3 GNDA 10uF		
C63  GNDA +3V3 0.1uF		
C65  +15V GNDA 10uF		
C66  GNDA +15V 0.1uF		
U20  ? Net-_U19-Pad1_ Net-_U19-Pad2_ -15V ? Vout8 +15V ? AD8657		
C75  +15V GNDA 0.1uF		
U11  ? +15V ? ? ? +10Vref Net-_C38-Pad2_ -10Vref GNDA ? ? ? ? ? ? -15V AD688		
C38  GNDA Net-_C38-Pad2_ 1uF		
C37  GNDA +15V 0.1uF		
C35  +15V GNDA 10uF		
C45  GNDA -15V 0.1uF		
C51  GNDA -15V 10uF		
C67  -15V GNDA 0.1uF		
U18  Net-_U17-Pad2_ Net-_U17-Pad3_ Net-_U18-Pad3_ Net-_U18-Pad4_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U18-Pad16_ Net-_U18-Pad17_ -15V GNDA Vout7 AD5781		
C72  GNDA -15V 0.1uF		
C71  GNDA -15V 10uF		
C60  +3V3 GNDA 10uF		
C61  GNDA +3V3 0.1uF		
U17  ? Net-_U17-Pad2_ Net-_U17-Pad3_ -15V ? Vout7 +15V ? AD8657		
C76  +15V GNDA 0.1uF		
C64  -15V GNDA 0.1uF		
C68  +15V GNDA 10uF		
C69  +15V GNDA 0.1uF		
C59  GNDA +15V 0.1uF		
C52  GNDA -15V 0.1uF		
U16  Net-_U13-Pad4_ Net-_U13-Pad3_ +10Vref -15V -10Vref Net-_U13-Pad17_ Net-_U13-Pad16_ +15V AD8676		
U14  Net-_U14-Pad1_ Net-_U14-Pad2_ Net-_U13-Pad3_ Net-_U13-Pad4_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U13-Pad16_ Net-_U13-Pad17_ -15V GNDA Vout6 AD5781		
C56  GNDA -15V 0.1uF		
C55  GNDA -15V 10uF		
C42  +3V3 GNDA 10uF		
C43  GNDA +3V3 0.1uF		
C46  +15V GNDA 10uF		
C47  GNDA +15V 0.1uF		
U15  ? Net-_U14-Pad1_ Net-_U14-Pad2_ -15V ? Vout6 +15V ? AD8657		
C57  +15V GNDA 0.1uF		
C48  -15V GNDA 0.1uF		
U13  Net-_U12-Pad2_ Net-_U12-Pad3_ Net-_U13-Pad3_ Net-_U13-Pad4_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U13-Pad16_ Net-_U13-Pad17_ -15V GNDA Vout5 AD5781		
C54  GNDA -15V 0.1uF		
C53  GNDA -15V 10uF		
C40  +3V3 GNDA 10uF		
C41  GNDA +3V3 0.1uF		
U12  ? Net-_U12-Pad2_ Net-_U12-Pad3_ -15V ? Vout5 +15V ? AD8657		
C58  +15V GNDA 0.1uF		
C44  -15V GNDA 0.1uF		
C49  +15V GNDA 10uF		
C50  +15V GNDA 0.1uF		
C39  GNDA +15V 0.1uF		
C29  GNDA -15V 0.1uF		
U10  Net-_U10-Pad1_ Net-_U10-Pad2_ +10Vref -15V -10Vref Net-_U10-Pad6_ Net-_U10-Pad7_ +15V AD8676		
U8  Net-_U8-Pad1_ Net-_U8-Pad2_ Net-_U10-Pad2_ Net-_U10-Pad1_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U10-Pad7_ Net-_U10-Pad6_ -15V GNDA Vout4 AD5781		
C33  GNDA -15V 0.1uF		
C32  GNDA -15V 10uF		
C21  +3V3 GNDA 10uF		
C22  GNDA +3V3 0.1uF		
C24  +15V GNDA 10uF		
C25  GNDA +15V 0.1uF		
U9  ? Net-_U8-Pad1_ Net-_U8-Pad2_ -15V ? Vout4 +15V ? AD8657		
C34  +15V GNDA 0.1uF		
C26  -15V GNDA 0.1uF		
U7  Net-_U6-Pad2_ Net-_U6-Pad3_ Net-_U10-Pad2_ Net-_U10-Pad1_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U10-Pad7_ Net-_U10-Pad6_ -15V GNDA Vout3 AD5781		
C31  GNDA -15V 0.1uF		
C30  GNDA -15V 10uF		
C19  +3V3 GNDA 10uF		
C20  GNDA +3V3 0.1uF		
U6  ? Net-_U6-Pad2_ Net-_U6-Pad3_ -15V ? Vout3 +15V ? AD8657		
C36  +15V GNDA 0.1uF		
C23  -15V GNDA 0.1uF		
C27  +15V GNDA 10uF		
C28  +15V GNDA 0.1uF		
C18  GNDA +15V 0.1uF		
C11  GNDA -15V 0.1uF		
U5  Net-_U2-Pad4_ Net-_U2-Pad3_ +10Vref -15V -10Vref Net-_U2-Pad17_ Net-_U2-Pad16_ +15V AD8676		
U3  Net-_U3-Pad1_ Net-_U3-Pad2_ Net-_U2-Pad3_ Net-_U2-Pad4_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U2-Pad16_ Net-_U2-Pad17_ -15V GNDA Vout2 AD5781		
C15  GNDA -15V 0.1uF		
C14  GNDA -15V 10uF		
C3  +3V3 GNDA 10uF		
C4  GNDA +3V3 0.1uF		
C6  +15V GNDA 10uF		
C7  GNDA +15V 0.1uF		
U4  ? Net-_U3-Pad1_ Net-_U3-Pad2_ -15V ? Vout2 +15V ? AD8657		
C16  +15V GNDA 0.1uF		
C8  -15V GNDA 0.1uF		
U2  Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U2-Pad3_ Net-_U2-Pad4_ +15V ? ? ? +3V3 +3V3 ? ? ? ? GNDA Net-_U2-Pad16_ Net-_U2-Pad17_ -15V GNDA Vout1 AD5781		
C13  GNDA -15V 0.1uF		
C12  GNDA -15V 10uF		
C1  +3V3 GNDA 10uF		
C2  GNDA +3V3 0.1uF		
U1  ? Net-_U1-Pad2_ Net-_U1-Pad3_ -15V ? Vout1 +15V ? AD8657		
C17  +15V GNDA 0.1uF		
C5  -15V GNDA 0.1uF		
C9  +15V GNDA 10uF		
C10  +15V GNDA 0.1uF		

.end
